US04824951
2-(4-Bromophenyl)-N-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (3.4 g, 0.027 mole) was added dropwise (slowly) to a stirred and chilled (10° C.) suspension of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (8.4 g, 0.025 mole) in anhydrous dimethylformamide (50 ml). The reaction mixture was heated at 55°-60° C. for 4 hours, cooled to room temperature, and added dropwise to a stirred and chilled (10° C.) solution of 2-aminopyridine (2.6 g, 0.028 mole) and triethylamine (5.4 g, 0.0053 mole) in anhydrous dimethyl formamide (100 ml). The reaction was stirred at room temperature overnight. Dimethylformamide (100 ml) was distilled off at 100 mm Hg. The residue was cooled, triturated in potassium bicarbonate solution (2×50 ml), and filtered. The filter cake was rinsed with water (2×50 ml) and recrystallized from ethanolisopropyl ether to give 4.8 g (47%) of white solid, mp. 191.5°-195° C.

reactant | oxalyl chloride | 0.027 mole, 3.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.025 mole, 8.4 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 2-aminopyridine | 0.028 mole, 2.6 g | NC1=NC=CC=C1 | C5H6N2
reactant | triethylamine | 0.0053 mole, 5.4 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenyl)-N-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.8 g, 47% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=NC=CC=C1 | C19H14BrN5O
